US04722929
2-(2-Dimethylamino-4-nitro-phenyl)-4H-imidazo[4,5-b]pyridin-5-one
A quantity of 0.2 gm of 2-(2-dimethylamino-4-nitro-phenyl)-5-methoxy-imidazo[4,5-b]pyridine is heated in a bomb tube to 100° C. for three hours with 5 ml of concentrated hydrochloric acid. The reaction mixture is poured onto about 20 ml of ice, neutralized, and extracted with ethyl acetate. After washing with water and drying with magnesium sulfate, the ethyl acetate phase is evaporated. The residue is crystallized by trituration in ether/petroleum ether.

reactant | 2-(2-dimethylamino-4-nitro-phenyl)-5-methoxy-imidazo[4,5-b]pyridine | 0.2 gm | CN(C1=C(C=CC(=C1)[N+](=O)[O-])C=1NC=2C(=NC(=CC2)OC)N1)C | C15H15N5O3
reactant | hydrochloric acid | 5 ml | Cl | ClH
product | 2-(2-Dimethylamino-4-nitro-phenyl)-4H-imidazo[4,5-b]pyridin-5-one | CN(C1=C(C=CC(=C1)[N+](=O)[O-])C1=NC=2C(NC(CC2)=O)=N1)C | C14H13N5O3
